US09085576B2
In a 100 mL R.B. flask, Boron trifluoride diethyl etherate (1.8 mL, 0.0143 mol, Sigma Aldrich) was added drop wise to a cooled mixture (−15° C.) of 6-chloro-5-methylpyridine-3-amine (1.0 g, 0.0070 mol) in DME (7.5 mL) and dichloromethane (2.5 mL). Then tert-butyl nitrite (0.85 g, 0.0082 mol, Sigma-Aldrich) was added drop wise and the reaction mixture was stirred at −10° C. for 25 min. The reaction mixture was allowed to warm to 0° C. and stirred for additional 20 min. The reaction mixture was diluted with pentane (50 mL) and the tetrafluoroborate diazonium salt was collected by filtration. The salt was dissolved in acetic anhydride (10 mL) and heated at 95° C. for 2 h. The reaction mixture was cooled to ambient temperature and then partitioned between ethyl acetate (50 mL) and sat. aq. sodium bicarbonate solution (100 mL). The aqueous solution was separated and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford a brown oil. This oil was purified by column chromatography on silica gel, eluting with 5% ethyl acetate in petroleum ether to give 6-chloro-5-methylpyridine-3-yl acetate as pale yellow oil (780 mg, 62%). MS m/z=185.02 [M+H]+.

reactant | Boron trifluoride diethyl etherate | 0.0143 mol, 1.8 mL | B(F)(F)F.CCOCC
reactant | 6-chloro-5-methylpyridine-3-amine | 0.0070 mol, 1.0 g | ClC1=C(C=C(C=N1)N)C | C6H7ClN2
reactant | tert-butyl nitrite | 0.0082 mol, 0.85 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | DME | 7.5 mL | COCCOC | C4H10O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | pentane | 50 mL | CCCCC | C5H12
product | 6-chloro-5-methylpyridine-3-yl acetate | 780 mg, 62% | C(C)(=O)OC=1C=NC(=C(C1)C)Cl | C8H8ClNO2
